US08202858B2
5-(2-Amino-4-chloro-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Zinc powder (26.17 g, 400 mmol) was added to a suspension of 5-(4-chloro-2-nitro-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester from Example E1.1 (26.0 g, 80 mmol) in methanol/acetic acid (10:1, 330 ml) at room temperature. After the exothermic reaction which followed, the resulting suspension was stirred at room temperature for 18 h before being filtered through Celite® filter agent. The filtrate was concentrated in vacuo. The residue was dissolved in EtOAc, and the solution was washed with saturated NaHCO3 and brine, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 65% EtOAc:35% pet ether to 80% EtOAc:20% pet ether) to yield the title compound (18.41 g, 78.0%).

reactant | 5-(4-chloro-2-nitro-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1NC1=C(C=C(C=C1)Cl)[N+](=O)[O-])C | C13H13ClN4O4
solvent | methanol acetic acid | 330 ml | CO.C(C)(=O)O
catalyst | Zinc | 400 mmol, 26.17 g | [Zn] | Zn
product | 5-(2-Amino-4-chloro-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | 18.41 g, 78.0% | C(C)OC(=O)C=1C=NN(C1NC1=C(C=C(C=C1)Cl)N)C | C13H15ClN4O2
